data/oMe_Silver.jsonl
{"reaction_id": "NR-108_1-C(F)(F)F_2-c1ccc(N(C)C)cc1_3-c1ccc(F)cc1","name": "Hofmann-Löffler-Freytag Reaction","level": "medium","reactants_smiles": ["ClN(c1ccc(F)cc1)CCCC(C(F)(F)F)c1ccc(N(C)C)cc1"],"products_smiles": ["N(c1ccc(F)cc1)CCCC(C(F)(F)F)(c1ccc(N(C)C)cc1)(Cl)"],"conditions": "Heat or hv","mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[N](c1ccc(F)cc1)CCCC(C(F)(F)F)c1ccc(N(C)C)cc1","rationale": "Heat or light promotes homolytic N–Cl bond cleavage, favored by the weak bond and the stability of the nitrogen-centered radical through lone pair and adjacent substituent effects."},{"step": 2,"type": "rearrangement","subtype": "radical_rearrangement","intermediate_smiles": "N(c1ccc(F)cc1)CCC[C](C(F)(F)F)c1ccc(N(C)C)cc1","rationale": "The nitrogen radical abstracts a γ-hydrogen via a 1,5-hydrogen shift, favored by a six-membered transition state and minimal steric hindrance, generating a stabilized carbon radical."},{"step": 3,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "N(c1ccc(F)cc1)CCCC(C(F)(F)F)(c1ccc(N(C)C)cc1)(Cl)","rationale": "The carbon radical couples with a chlorine atom due to the strong C–Cl bond formation and the high reactivity of the radical, completing the intramolecular halogenation."}],"description": "Under photochemical or thermal conditions, the Hofmann–Löffler–Freytag reaction proceeds via nitrogen-centered radical formation, intramolecular hydrogen abstraction to form a carbon radical, and radical halogenation to yield the chlorinated amine product with high regioselectivity due to favorable 1,5-hydrogen transfer."}
{"reaction_id": "NR-325_1-CCCCCC_2-CC1CCCC1","level": "medium","name": "Wolff-Kishner Reduction","reactants_smiles": ["C(=O)(CCCCCC)CC1CCCC1","NN","[OH-]"],"products_smiles": ["C(CCCCCC)CC1CCCC1"],"conditions": "Strong base (e.g., KOH), High temperature","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(CCCCCC)CC1CCCC1","step_weight": 0,"rationale": "The carbonyl carbon is electrophilic; hydrazine attacks to form a hydrazone, driven by resonance stabilization of the C=N bond and removal of the polar C=O under basic conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](N=N)(CCCCCC)CC1CCCC1","step_weight": 0,"rationale": "Strong base deprotonates the α-carbon of the hydrazone, favored by the adjacent electron-withdrawing N=N group stabilizing the carbanion via resonance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(N=N)(CCCCCC)CC1CCCC1","step_weight": 0,"rationale": "Proton transfer to nitrogen occurs to prepare a good leaving group, as protonated nitrogen facilitates N₂ elimination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[CH-](CCCCCC)CC1CCCC1","step_weight": 0,"rationale": "Elimination of N₂ gas is highly favorable due to its inertness and strong triple bond, driving formation of a carbanion intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CCCCCC)CC1CCCC1","step_weight": 0,"rationale": "The carbanion is protonated by solvent or conjugate acid, yielding the thermodynamically stable alkane product."}],"description": "Under strongly basic, high-temperature conditions, the Wolff–Kishner reduction converts a carbonyl into a methylene group via hydrazone formation, deprotonation, nitrogen elimination, and final protonation. The driving force is the formation of stable N₂ gas and the thermodynamic stability of the alkane."}
